US05039673
[2-[(Methylsulphonyl)methyl]phenyl]boronic acid
A solution in DMF (2.0 ml) of [2-(bromomethyl)phenyl]boronic acid (399 mg) was added in one portion to a stirred slurry of sodium methanesulphinate (200 mg) in DMF (2.0 ml). The mixture was stirred for 2.5 h i nd then poured into 1M hydrochloric acid (100 ml) and extracted with EA (3×50 ml). the combined extracts were dried and evaporated. On standing a solid material precipitated, which was washed with ER to give white crystals of the title compound (115 mg), m.p. 133°-137°. T.l.c. (A) ER:hexane (3:2) Rf 0.51.

reactant | [2-(bromomethyl)phenyl]boronic acid | 399 mg | BrCC1=C(C=CC=C1)B(O)O | C7H8BBrO2
reactant | sodium methanesulphinate | 200 mg | CS(=O)[O-].[Na+]
reactant | hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | [2-[(Methylsulphonyl)methyl]phenyl]boronic acid | 115 mg | CS(=O)(=O)CC1=C(C=CC=C1)B(O)O | C8H11BO4S
